US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-pyrrolidin-1- ylisonicotinamide was prepared from 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide and pyrrolidine using method A. NMR; δH [2H6]—DMSO 10.28,(1H. s), 8.62,(1H, t), 8.19,(1H, d), 7.93,(2H, d), 7.71,(1H, dd), 7.66,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 6.97,(1H, d), 6.86,(1H, s), 3.43,(4H, m), 3.16,(2H, t), 2.20,(3H, s), 1.95,(4H, m), 1.04,(1H, b), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 2.85 min, M+455.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-pyrrolidin-1- ylisonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CCCC1)=O | C28H30N4O2
